US06555577B1
(E)-(S)-Ethyl 2-Ethoxy-3-{4-[3-(5′-chloro-2′-methoxy-biphenyl-4-yl)-but-2-enyloxy]-phenyl}-propionate
The title compound (0.54 g, 61% yield) was prepared from (E)-3-(5′-chloro-2′-methoxy-biphenyl-4-yl)-but-2-en-1-ol (0.50 g, 1.73 mmol) and (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate (0.433 g, 1.82 mmol) by a procedure analogous to that described in example 52c.

reactant | (E)-3-(5′-chloro-2′-methoxy-biphenyl-4-yl)-but-2-en-1-ol | 1.73 mmol, 0.50 g | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)/C(=C/CO)/C)OC | C17H17ClO2
reactant | (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate | 1.82 mmol, 0.433 g | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
product | (E)-(S)-Ethyl 2-Ethoxy-3-{4-[3-(5′-chloro-2′-methoxy-biphenyl-4-yl)-but-2-enyloxy]-phenyl}-propionate | 0.54 g, 61% yield | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)OC\C=C(/C)\C1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)OC | C30H33ClO5
